US04523014
1-Hexyl-4-(3-Ketohexyl)-Piperazine Dihydrochloride
A mixture of 15.3 g (0.09 mole) of n-hexyl piperazine and 12.3 g (0.091 mole) of 1-chloro-3-hexanone was heated to 100° C. for 5 minutes, cooled and dissolved in isopropanol. Isopropanolic HCl was added until acidic. Ether was added and the salt was filtered off. The product was crystallized from acetonitrile to yield 16.5 g of product with a melting point of 225°-230° C.

reactant | n-hexyl piperazine | 0.09 mole, 15.3 g | C(CCCCC)N1CCNCC1 | C10H22N2
reactant | 1-chloro-3-hexanone | 0.091 mole, 12.3 g | ClCCC(CCC)=O | C6H11ClO
reactant | HCl | Cl | ClH
reactant | Ether | CCOCC | C4H10O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-Hexyl-4-(3-Ketohexyl)-Piperazine Dihydrochloride | 16.5 g | Cl.Cl.C(CCCCC)N1CCN(CC1)CCC(CCC)=O | InChI=1S/C16H32N2O.2ClH/c1-3-5-6-7-10-17-12-14-18(15-13-17)11-9-16(19)8-4-2;;/h3-15H2,1-2H3;2*1H
